US07645771B2
Methyl 2-{[(dimethylamino)sulfonyl]oxy}benzoate (325.0 mg, 1.253 mmol) was dissolved in 2 ml of 1,4-dioxane and 2 ml of 1M LiOH was added. The resulting solution was shaken overnight at 45° C. The reaction mixture was washed with DCE and separated using a hydrophobic frit. The aqueous layer was acidified to give a white solid which was filtered and dried to afford 244.4 mg (80% yield) of 2-{[(dimethyl-amino)sulfonyl]oxy}benzoic acid.

reactant | Methyl 2-{[(dimethylamino)sulfonyl]oxy}benzoate | 1.253 mmol, 325.0 mg | CN(S(=O)(=O)OC1=C(C(=O)OC)C=CC=C1)C | C10H13NO5S
reactant | LiOH | 1M, 2 ml | [Li+].[OH-]
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-{[(dimethyl-amino)sulfonyl]oxy}benzoic acid | 244.4 mg, 80% yield | CN(S(=O)(=O)OC1=C(C(=O)O)C=CC=C1)C | C9H11NO5S
